delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 29.98337
Cb B C 1.24e-06
Rc C A 30.248109
Rload B 0 29.810677
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rc[i] @rload[i]
.endc
.end
